US06972297B2
(a) 6-Methylaminonicotinic acid hydrochloride
6-chloronicotinic acid (4.5 g) was dissolved in methanol (50 ml), treated with 33% methylamine in ethanol solution (25 ml) and heated in a sealed bomb at 140° C. for 18 hours. The mixture was cooled and evaporated to dryness. Trituration with 1:1 methanol/diethyl ether gave the title compound (3.7 g, 69%). MS (+ve is an electrospray) m/z 153 (MH+. 100%).

reactant | 6-chloronicotinic acid | 4.5 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | methylamine | CN | CH5N
solvent | methanol | 50 ml | CO | CH4O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 6-Methylaminonicotinic acid hydrochloride | 3.7 g, 69% | Cl.CNC1=NC=C(C(=O)O)C=C1 | InChI=1S/C7H8N2O2.ClH/c1-8-6-3-2-5(4-9-6)7(10)11;/h2-4H,1H3,(H,8,9)(H,10,11);1H
